US08664220B2
Step 2: 1-{4′-[3-Methyl-4-(4-o-tolyl-piperazine-1-carbonyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-(4-o-tolyl-piperazin-1-yl)-methanone (0.156 g, 0.36 mmol), 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester (0.168 g, 0.53 mmol), tetrakis(triphenylphosphine)palladium(0) (0.042 g, 0.04 mmol), and sodium bicarbonate (0.076 g, 0.90 mmol) were combined in 3:1 DME:H2O, and the mixture was purged with N2 (g). The reaction was stirred at 80° C. for 1 hour and then cooled and concentrated. The crude material was purified by silica gel chromatography (0-40% EtOAc in hexanes) to give the title compound.

reactant | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-(4-o-tolyl-piperazin-1-yl)-methanone | 0.36 mmol, 0.156 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)N1CCN(CC1)C1=C(C=CC=C1)C | C22H22BrN3O2
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | 0.53 mmol, 0.168 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
reactant | sodium bicarbonate | 0.90 mmol, 0.076 g | C([O-])(O)=O.[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.04 mmol, 0.042 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | COCCOC | C4H10O2
product | 1-{4′-[3-Methyl-4-(4-o-tolyl-piperazine-1-carbonyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)N1CCN(CC1)C1=C(C=CC=C1)C | C34H35N3O4
